US09402832B2
The above prepared 5-tert-Butyl-6-nitrobenzo[d][1,3]dioxole (1.1 g, 5 mmol), Fe (5.5 g, 100 mmol) and HCl (2 ml) was added into ethanol (6 ml) and water (18 ml). The mixture was stirred for 2 h at refluxed temperature. The PH was adjusted to 7-8 and the mixture was filtered and washed with methanol. The filtrate was concentrated and purified by column chromatography (petroleum ether/ethyl acetate 1%-5%) to give 6-tert-butylbenzo[d][1,3]dioxol-5-amine (240 mg, 25%) as a red solid. LCMS: 194 [M+1]+; 1H NMR (400M): (DMSO-d6) δ 1.28 (s, 9H), 4.46 (s, 2H), 5.77 (s, 2H), 6.32 (s, 1H), 6.63 (s, 1H).

reactant | 5-tert-Butyl-6-nitrobenzo[d][1,3]dioxole | 5 mmol, 1.1 g | C(C)(C)(C)C1=CC2=C(OCO2)C=C1[N+](=O)[O-] | C11H13NO4
reactant | HCl | 2 ml | Cl | ClH
reactant | ethanol | 6 ml | C(C)O | C2H6O
catalyst | Fe | 100 mmol, 5.5 g | [Fe] | Fe
solvent | water | 18 ml | O | H2O
product | 6-tert-butylbenzo[d][1,3]dioxol-5-amine | 240 mg, 25% | C(C)(C)(C)C=1C(=CC2=C(OCO2)C1)N | C11H15NO2
